### ISSUE TITLE
matching on an `if _ then _ else _` gets reduced to `Decidable.rec` by `simp only`, which it then can't further simplify

### ISSUE THREAD

**Issue by alexkeizer** [leanprover/lean4#5388]
### Prerequisites

Please put an X between the brackets as you perform the following steps:

* [X] Check that your issue is not already filed:
      https://github.com/leanprover/lean4/issues
* [X] Reduce the issue to a minimal, self-contained, reproducible test case.
      Avoid dependencies to Mathlib or Batteries.
* [X] Test your test case against the latest nightly release, for example on
      https://live.lean-lang.org/#project=lean-nightly
      (You can also use the settings there to switch to “Lean nightly”)

### Description

See the following MWE:
```
example (k : Prop)  (h : k) [Decidable k] : 
    let ⟨a, b⟩ := if k then (1, 0) else (0, 1)
    a = 1 := by
  simp [h]
  /-
  unsolved goals
  k : Prop
  h : k
  inst✝ : Decidable k
  ⊢ (Decidable.rec (fun h => (0, 1)) (fun h => (1, 0)) inst✝).fst = 1
  -/
```

When we match on the result of an `if _ then _ else _` (recalling that `let ⟨a, b⟩ := foo; ...` desugars to `match foo with | ⟨a, b⟩ => ...)`, then even `simp only` will already reduce this to an application of `Decidable.rec`.

This is unfortunate, because our simpset is not equiped to simplify `Decidable.rec`, even if the if-condition is known (as it is in the example), and even if we include a proof that the if-condition is true, this reduction seems to happen first, blocking any further simplification and preventing a seemingly trivial goal from being closed.

### Context

This showed up in LNSym, for example, in [our semantics for a `sub` instruction](https://github.com/leanprover/LNSym/blob/ba4a9016fec5f6d1bb7d8120c1ff3b45e6f7faae/Arm/Insts/DPI/Add_sub_imm.lean#L27)

### Steps to Reproduce

MWE:
```
example (k : Prop)  (h : k) [Decidable k] : 
    let ⟨a, b⟩ := if k then (1, 0) else (0, 1)
    a = 1 := by
  simp [h]
  /-
  unsolved goals
  k : Prop
  h : k
  inst✝ : Decidable k
  ⊢ (Decidable.rec (fun h => (0, 1)) (fun h => (1, 0)) inst✝).fst = 1
  -/
```

**Expected behavior:** I would've expected the goal to be automatically closed by `simp`, seeing that we gave it a proof that the condition of the `if` is true

**Actual behavior:** `simp` is unable to close the goal, getting stuck with 
```
/-
  unsolved goals
  k : Prop
  h : k
  inst✝ : Decidable k
  ⊢ (Decidable.rec (fun h => (0, 1)) (fun h => (1, 0)) inst✝).fst = 1
  -/
```

### Versions

4.12.0-nightly-2024-09-18, at https://live.lean-lang.org/#project=lean-nightly&codez=KYDwhgtgDgNsAEAKA1vAXPACgJwPZQEp4kALdeZIgbQBFgBjASwBMwAjOCgXXIChjicAC7xAF+RgANPDaBL8nQBeeIwBmFeEJLAAdkgCMUgAxFgMAM4JEBqboL8BYeIt0LpATzunG0eFRJc7APQAtHYArlqmuDAAbsDM8ADmuGBmdqgYOPh2ZBjIdowRQoC45OR0TKwcCHnEgEVESGUs7HAAdNgMSMrh8GTyAHxIVvA2RIidOj39iPrwRkQFpsUEzcoLjkN2QQG8dgDEwNEp8AAywGBazbHYnrhaAMpC2AUJQA

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.

**Comment by alexkeizer** [comment]
Thanks for the quick fix!
